* PSpice Model Editor - Version 16.2.0
*$
* LM5114A
*****************************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM5114A
* Date: 18FEB2013
* Model Type: TRANSIENT
* Simulator: PSPICE 
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM5114 EVAL BOARD
* EVM Users Guide: SNVA625–January 2012
* Datasheet: SNVS790D–JANUARY 2012–REVISED AUGUST 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
* Updates:
*
* Final 1.00
* Release to Web.
*****************************************************************************
.SUBCKT LM5114A  IN INB  VDD P_OUT N_OUT VSS
V_V2         N16505370 VSS 3.8
E_ABM4         N16515305 0 VALUE { 0.34*V(VDD)    }
X_U3         INB N16505719 N16515305 N16504880 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_ABM3         N16505719 0 VALUE { 0.67*V(VDD)    }
X_U5         UVLO N14509334 N3 N16510505 AND3_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U1         VDD N16505370 N165112383 UVLO COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_S1    N14508796 VSS VDD P_OUT LM5114A_S1 
T_T1         N16510505 VSS N16508556 VSS Z0=1000 TD=10n  
E_ABM1         N16505537 0 VALUE { 0.67*V(VDD)    }
X_U2         IN N16505537 N16514778 N14509334 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U4         N16504880 N3 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
R_R1         VSS N16508556  1k TC=0,0 
V_V1         N165112383 VSS 0.4
X_S2    N14508796 VSS N_OUT VSS LM5114A_S2 
E_ABM2         N16514778 0 VALUE { 0.34*V(VDD)    }
X_U6         N16508556 N14508796 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
.ENDS LM5114A
*$
.SUBCKT LM5114A_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=3.85 Voff=0.6 Von=0.4
.ENDS LM5114A_S1
*$
.SUBCKT LM5114A_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=0.66 Voff=0.4 Von=0.6
.ENDS LM5114A_S2
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT POWERMOS G D S PARAMS: RDSON=16m Ciss=1375p Crss=70p Coss=340p VSP=3.5 RG=1
* This is a simple model for Power MOSFET.
* The parameters modeled are
* - RDSon,
* - Input Capacitance,
* - Reverse capacitance,
* - Output capacitance,
* - Switching point voltage (Gate voltage where the FET starts switching),
* - Gate Resistance
C_C1         S Da  {Coss} IC=0
R_R1         Da D  10
C_C2         Ga D  {Crss}  IC=0
R_R2         G Ga {RG}
C_C3         Ga S  {Ciss} IC=0
D_D1         S Db Dbreak
R_R3         Db D 1m
S_switchM         D S Ga S _switchM
RS_switchM         Ga S 100Meg
.MODEL         _switchM VSWITCH Roff=100e6 Ron={RDSON} Voff=1.1 Von={VSP}
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.01
.ENDS POWERMOS
*$
.MODEL DIODE D
+ RS=.5
+ CJO=100.00E-15
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=100
+ IBV=100.00E-6
+ TT=5.0000E-9
*$
